US08669266B2
(v) 4-tert-Butoxycarbonylmethoxy-7-methyl-quinoline-2-carboxylic acid ethyl ester
To a solution of 3.0 g of 4-Hydroxy-7-methyl-quinoline-2-carboxylic acid ethyl ester in 20 ml of DMF, 3.0 g of potassium carbonate and 3.8 g of Bromo-acetic acid tert-butyl ester was added and stirred for 16 h. Then, the reaction mixture was diluted with water and extracted with ethyl acetate (3×150 ml). The combined organic phases were dried over MgSO4 and the solvents were removed under reduced pressure. The crude product was pure enough for the next reaction step. Yield: 4.9 g.

reactant | 4-Hydroxy-7-methyl-quinoline-2-carboxylic acid ethyl ester | 3.0 g | C(C)OC(=O)C1=NC2=CC(=CC=C2C(=C1)O)C | C13H13NO3
reactant | potassium carbonate | 3.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | Bromo-acetic acid tert-butyl ester | 3.8 g | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-tert-Butoxycarbonylmethoxy-7-methyl-quinoline-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC2=CC(=CC=C2C(=C1)OCC(=O)OC(C)(C)C)C | C19H23NO5
